US04806685
Preparation of 2-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-1-[4-(2-methylamino-ethoxy)-phenyl]-propene hydrochloride
1.5 ml of a 9% methanolic hydrochloric acid are added to a solution of 1.50 g (3.28 mmoles) of 2-phenyl-3,3,3-trifluoro-1-[4-(2-methylaminoethoxy)-phenyl]-1-(4-methoxymethoxy-phenyl)-propene in 15 ml of methanol, and the mixture is boiled for one hour. The solution is evaporated to dryness, and the residue is crystallized from isopropanol. 1.06 g (71.6%) of the aimed compound are obtained; m.p.: 213°-218° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-phenyl-3,3,3-trifluoro-1-[4-(2-methylaminoethoxy)-phenyl]-1-(4-methoxymethoxy-phenyl)-propene | 3.28 mmoles, 1.50 g | C1(=CC=CC=C1)C(=C(C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCCNC)C(F)(F)F | C26H26F3NO3
solvent | methanol | 15 ml | CO | CH4O
product | 2-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-1-[4-(2-methylamino-ethoxy)-phenyl]-propene hydrochloride | 1.06 g, 71.6% | Cl.C1(=CC=CC=C1)C(=C(C1=CC=C(C=C1)OCCNC)C1=CC=C(C=C1)O)C(F)(F)F | InChI=1S/C24H22F3NO2.ClH/c1-28-15-16-30-21-13-9-18(10-14-21)22(17-7-11-20(29)12-8-17)23(24(25,26)27)19-5-3-2-4-6-19;/h2-14,28-29H,15-16H2,1H3;1H
